US05155109
b) 4-Methanesulphonyl-2,2-dimethyl-1-nitrosopiperazine
A mixture, cooled to 0°-5° C., of 45 g of 4-methanesulphonyl-2,2-dimethylpiperazine, 19.3 g of sodium nitrite, 250 ml of water and 100 ml of methanol is adjusted to pH 1.0 using conc. HCl and stirred at a gradually increasing temperature for 12 hours. The precipitate is filtered off with suction, washed with water and dried in vacuo.

reactant | 4-methanesulphonyl-2,2-dimethylpiperazine | 45 g | CS(=O)(=O)N1CC(NCC1)(C)C | C7H16N2O2S
reactant | sodium nitrite | 19.3 g | N(=O)[O-].[Na+]
reactant | water | 250 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 4-Methanesulphonyl-2,2-dimethyl-1-nitrosopiperazine | CS(=O)(=O)N1CC(N(CC1)N=O)(C)C | C7H15N3O3S
